US09379413B2
In an autoclave of 100 mL, 2-ethylimidazole (19.2 g, 200 mmol) was made reacted with 2-chloroethyl ethyl ether (26.0 g, 240 mmol) at 145 deg C. for 72 hours. Brown liquid that was obtained was washed with 120 mL of a compound liquid of ethanol and ether (volume ratio thereof is 1:5), and then made reacted with triethylamine (20.2 g, 200 mmol) in the autoclave of 100 mL at 130 deg C. for 24 hours. Solid salts that was formed was removed by filtration, and residue (filtrate) was subjected to reduced-pressure distillation by using a Vigreux column of 20 cm. The product was a transparent liquid which has a boiling point of 171-175 deg C. when a pressure is 10 Pa. 1H-NMR measurement of obtained amine was performed, and it was confirmed that chemical shifts, δ (ppm), are 6.91 (d, 1H), 6.87(d, 1H), 4.00-3.97(t, 2H), 3.63-3.60 (t, 2H), 3.44-3.39(4, 2H), 2.75-2.65(m, 2H), 1.33-1.29(t, 3H), and 1.15-1.12(t, 3H), and 1-(2-ethoxyethyl)-2-ethyl imidazole was synthesized.

reactant | 2-ethylimidazole | 200 mmol, 19.2 g | C(C)C=1NC=CN1 | C5H8N2
reactant | 2-chloroethyl ethyl ether | 240 mmol, 26.0 g | C(C)OCCCl | C4H9ClO
reactant | triethylamine | 200 mmol, 20.2 g | C(C)N(CC)CC | C6H15N
product | 1-(2-ethoxyethyl)-2-ethyl imidazole | C(C)OCCN1C(=NC=C1)CC | C9H16N2O
